US04677129
(b) 1-(4-nitrophenyl)-3-n-pentyl-3-azabicyclo[3.1.1]heptane-2,4-dione
0.36 g of sodium hydride is added to a solution of 2.46 g of 1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione in 25 ml of N,N-dimethylformamide and the whole is stirred at room temperature for 30 minutes. 2.96 g of n-pentyl iodide dissolved in 10 ml of N,N-dimethylformamide are then added dropwise thereto. When the reaction is complete, the reaction mixture is freed of N,N-dimethylformamide. The residue is partitioned between ethyl acetate and water, and the organic phase is dried over magnesium sulphate and, after concentration by evaporation, the product is obtained having a melting point of 75°-79°.

reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | 1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | 2.46 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(NC(C(C1)C2)=O)=O | C12H10N2O4
reactant | n-pentyl iodide | 2.96 g | C(CCCC)I | C5H11I
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-nitrophenyl)-3-n-pentyl-3-azabicyclo[3.1.1]heptane-2,4-dione | [N+](=O)([O-])C1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCCCC)=O | C17H20N2O4
